US09120749B2
1-{6-Bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}-3-methylbutan-1-one
Following general procedure B, 1-(6-bromo-4-chloroquinolin-3-yl)-3-methylbutan-1-one (44 mg, 0.14 mmol) was reacted with trans-N1,N1-dimethylcyclohexane-1,4-diamine (92 mg, 0.43 mmol) to afford the desired product (13 mg, 21%) as an off-white solid: ESI MS m/z 433 [C22H30BrN3O+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)-3-methylbutan-1-one | 0.14 mmol, 44 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC(C)C)=O)Cl | C14H13BrClNO
reactant | trans-N1,N1-dimethylcyclohexane-1,4-diamine | 0.43 mmol, 92 mg | CN([C@@H]1CC[C@H](CC1)N)C | C8H18N2
product | 1-{6-Bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}-3-methylbutan-1-one | 13 mg, 21% | BrC=1C=C2C(=C(C=NC2=CC1)C(CC(C)C)=O)N[C@@H]1CC[C@H](CC1)N(C)C | C22H30BrN3O
